US08227500B2
5-(3-Cyano-4-phenylpyrrole-1-yl)furan-2-carboxlic acid
To a solution of 1-(5-formylfuran-2-yl)-4-phenyl-1H-pyrrole-3-carbonitrile (0.14 g) in tetrahydrofuran (4 mL) were added silver oxide (0.15 g) and sodium hydroxide aqueous solution (2 mol/L, 0.4 mL), and this mixture was stirred at room temperature for 6 hours. The insoluble material was removed by filtration, and this filtrate was concentrated. To this residue were added water (15 mL) and hydrochloric acid (2 mol/L, 2 mL), this mixture was extracted with ethyl acetate. This organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. This residue was purified by column chromatography on silica gel (eluent: methanol/dichloromethane=1/10−1/5) to give the title compound (0.040 g).

reactant | 1-(5-formylfuran-2-yl)-4-phenyl-1H-pyrrole-3-carbonitrile | 0.14 g | C(=O)C1=CC=C(O1)N1C=C(C(=C1)C1=CC=CC=C1)C#N | C16H10N2O2
reactant | sodium hydroxide | 2 mol/L, 0.4 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
catalyst | silver oxide | 0.15 g | [Ag]=O
product | 5-(3-Cyano-4-phenylpyrrole-1-yl)furan-2-carboxlic acid | 0.040 g | C(#N)C1=CN(C=C1C1=CC=CC=C1)C1=CC=C(O1)C(=O)O | C16H10N2O3
